Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfonamides
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o female with h/o HTN, DM, recently admitted to ___ 
from ___ with rhabdo from combination gemfibrozil and 
atorvastatin, now presenting with progressive dyspnea on 
exertion over the last ___ weeks. She has noted difficulty now 
climbing stairs, and has had about three episodes where she has 
exerted herself that she must stop and sit down to catch her 
breath. Her daughter has also noted at times that she becomes 
dyspneic while talking on the telephone, and is concerned that 
she could be having heart trouble.  
She has not had any chest pain or pleurisy. She does not recall 
being on heparin injection sc while admitted, but denies any leg 
swelling or leg discomfort. She has not previously had stress 
testing or echocardiogram; a recent ECG from ___ showed 
Left Bundle Branch Block pattern though there was no prior for 
comparison.  
She presented to her PCP's office today for evaluation. She had 
an O2 sat of 98% noted there, and after ambulation for several 
passes through the office she did not desaturate and remained 
98% according to her daughter who was present. She was referred 
to ___ for further evaluation.  
Her ROS is notable for occasional nausea, though no vomiting or 
other GI symptoms. She has had no fevers, rigors, skin changes. 
She had edema in her legs after discharge, but that was noted to 
be associated with cessation of lasix, which has now improved 
since restarting. No real history of cough.  
In the ED, vital signs were initially: 98.3 63 156/36 16 99 
174/67  
She currently is resting comfortably  

 
Past Medical History:
- Diabetes c/b retinopathy  
- Hypertension  
- Hyperlipidemia  
- Renal Insufficiency  
- right sided retinal detachment  
Recent admission for rhabdo: highest CK 15,335 on ___, 320 on 
___.  
Cr peaked at 1.6, and trended down to 0.8-0.9 on discharge, 
though increaed again to 1.3 on ___.  

 
Social History:
___
Family History:
Unclear, most family is from ___. No known history of clotting 
disorders or premature CAD. 
 
Physical Exam:
VS: 98.4 162/64 60 16 99% RA FSG 152  
GEN:The patient is in no distress and appears comfortable  
SKIN:No rashes or skin changes noted  
HEENT:No JVD (~6cm), neck supple, No lymphadenopathy in 
cervical,  
posterior, or supraclavicular chains noted.  
CHEST:Lungs are notable for bibasilar crackles, the left side 
which extend in the outer lung fields midway on inspiration.  
CARDIAC: Regular rhythm; Soft S1, Louder S2. No murmur.  
ABDOMEN: Non-distended, and soft without tenderness  
EXTREMITIES:no peripheral edema, warm without cyanosis  
NEUROLOGIC: Alert and appropriate. CN II-XII grossly intact 

 
Pertinent Results:
CBC
___ 05:15PM BLOOD WBC-6.9 RBC-4.19* Hgb-11.1* Hct-33.8* 
MCV-81* MCH-26.5* MCHC-32.8 RDW-13.5 Plt ___
___ 06:15AM BLOOD WBC-5.4 RBC-3.95* Hgb-10.1* Hct-31.8* 
MCV-81* MCH-25.6* MCHC-31.8 RDW-13.5 Plt ___
___ 05:15PM BLOOD Neuts-71.1* ___ Monos-3.0 Eos-1.5 
Baso-0.5
___ 06:15AM BLOOD ___ PTT-25.5 ___

CHEMISTRY
___ 05:15PM BLOOD Glucose-316* UreaN-30* Creat-1.4* Na-135 
K-4.1 Cl-99 HCO3-25 AnGap-15
___ 06:15AM BLOOD Glucose-74 UreaN-22* Creat-1.2* Na-144 
K-3.9 Cl-107 HCO3-28 AnGap-13

CARDIAC ENZYMES
___ 05:15PM BLOOD CK(CPK)-131
___ 12:00AM BLOOD CK(CPK)-107
___ 06:15AM BLOOD CK(CPK)-92
___ 05:15PM BLOOD cTropnT-0.02*
___ 12:00AM BLOOD CK-MB-3 cTropnT-0.03*
___ 06:15AM BLOOD CK-MB-NotDone cTropnT-0.02*
___ 05:15PM BLOOD CK-MB-4 proBNP-357

URINE
___ 08:30PM URINE Color-Yellow Appear-Clear Sp ___
___ 08:30PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-250 Ketone-NEG Bilirub-NEG Urobiln-0.2 pH-5.0 Leuks-LG
___ 08:30PM URINE RBC-0 ___ Bacteri-OCC Yeast-NONE 
___

CHEST X-RAY ___: IMPRESSION: No consolidation or edema
 
Brief Hospital Course:
# Dyspnea on Exertion  - Mrs. ___ was admitted from the ED for 
dyspnea on exertion.  On further questioning after admission, 
patient was noted to be fatigued for approxamately 3 months with 
some dyspnea with exertion present after discharge for treatment 
of rhabdomyolysis in ___.  She has not recieved formal 
physical therapy since discharge and dyspnea only present ___ 
times per week.  Exam with no signs of volume overload.  Chest 
x-ray with no acute abnormalities.  Serial cardiac enzymes 
negative. EKG with LBBB, prolonged PR interval, but unchanged 
from EKG in ___.  Oxygen saturation on ambulation never 
decreased below 98% on room air.  Patient's family requested 
discharge so that she could attend her grandson's wedding.  Echo 
and P-MIBI pharmacologic stress are to be done as outpatient.  
Primary Care Physician was notified via email of the plan of 
care.  
.
# Renal Insufficiency  - Baseline unclear, however, it has been 
noted to be as low as 0.8 to 0.9 at the end of her 
hospitalization for rhabdo. Baseline from ___ records appears 
to be 1.1.-1.4.  Patient was discharged with creatining of 1.2, 
which was likely her baseline.  Lasix initially held by 
nightfloat, but patient was discharged on home medications, 
unchanged.
.
# Diabetes:  Ordered humalog sliding scale while inpatient, 
discharged on home regimen. 
.
# Hypertension:  Continued avapro and metoprolol.  Discharged on 
home regimen.

 
Medications on Admission:
Diltiazem 360mg SR po daily  
Doxaxosin 3mg PO BID  
Alendronate 70mg PO weekly  
Furosemide 20mg PO daily  
Irbesartan (avapro) 150mg PO daily  
Metoprolol Tartrate 50mg PO qAM, 100mg PO qPM  
Sitagliptin (Januvia) 50mg PO daily  
Lisinopril 30mg PO BID  
Aspirin 81mg PO daily  

 
Discharge Medications:
1. Diltiazem HCl 180 mg Capsule, Sustained Release Sig: Two (2) 
Capsule, Sustained Release PO DAILY (Daily).  
2. Doxazosin 1 mg Tablet Sig: Three (3) Tablet PO BID (2 times a 
day).  
3. Fosamax 70 mg Tablet Sig: One (1) Tablet PO once a week.  
4. Lasix 20 mg Tablet Sig: One (1) Tablet PO once a day.  
5. Irbesartan 150 mg Tablet Sig: One (1) Tablet PO daily ().  
6. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO QAM 
(once a day (in the morning)).  
7. Metoprolol Tartrate 50 mg Tablet Sig: Two (2) Tablet PO QPM 
(once a day (in the evening)).  
8. Januvia 50 mg Tablet Sig: One (1) Tablet PO once a day.  
9. Lisinopril 30 mg Tablet Sig: One (1) Tablet PO once a day.  
10. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day. 
Tablet(s) 
11. Glucotrol 10 mg Tablet Sig: One (1) Tablet PO twice a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Dyspnea on exertion

Secondary Diagnosis:
1. Diabetes
2. Hypertension

 
Discharge Condition:
Hemodynamically Stable.  Good oxygen saturation.  

 
Discharge Instructions:
You were admitted to the hospital on recommendation from your 
PCP due to fatigue and shortness of breath.  You were observed 
overnight.  Lab tests confirmed that you did not have a heart 
attack.  You are being discharged to have further work-up of 
your shortness of breath and fatigue as an outpatient.  Your 
primary care physician has been notified of this plan and it is 
important that you follow-up with her on ___, ___.

Changes in Medications:
NONE, please take all medications as previously prescribed

If you experience chest pain, loss of concoiusness, worsening 
shortness of breat, fever, blood in your urine or stool, or any 
other symptom that concerns you, please contact your primary 
care physician or go to the nearest emergency room for 
evaluation.
 
Followup Instructions:
___